US07592358B2
(2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-methylphenoxy}ethyl)cyclohexylcyclopropylmethylamine
30 μL (0.29 mmol) of cyclohexanone, 1 drop of AcOH, and 128 mg (0.68 mmol) of sodium triacetoxyborohydride were added to a solution of 60 mg (0.14 mmol) of (2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-methylphenoxy}ethyl)cyclopropylmethylamine in 10 mL of THF and the mixture was stirred for 24 hours at RT. 5 mL of DCM, 30 μL (0.29 mmol) of cyclohexanone, and 36 mg (0.58 mmol) of sodium cyanoborohydride were added and the mixture was stirred for a further 3 days. The reaction mixture was evaporated down in vacuo and the residue was taken up in EtOAc. The organic phase was washed with semiconcentrated aqueous sodium bicarbonate solution, dried over sodium sulfate, and evaporated down in vacuo. The residue was purified by column chromatography (silica gel, cyc/EtOAc 1:1) and triturated with PE. Yield: 4.5 mg (6% of theoretical); C32H35ClN2O (M=499.086); calc.: molpeak (M+H)+: 499/501 (Cl); found: molpeak (M+H)+: 499/501 (Cl); HPLC-MS: 9.85 minutes (method A).

reactant | cyclohexanone | 0.29 mmol, 30 μL | C1(CCCCC1)=O | C6H10O
reactant | sodium triacetoxyborohydride | 0.68 mmol, 128 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-methylphenoxy}ethyl)cyclopropylmethylamine | 0.14 mmol, 60 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC(=C(OCCNCC2CC2)C=C1)C | C26H25ClN2O
reactant | cyclohexanone | 0.29 mmol, 30 μL | C1(CCCCC1)=O | C6H10O
reactant | sodium cyanoborohydride | 0.58 mmol, 36 mg | C(#N)[BH3-].[Na+]
catalyst | AcOH | 1 drop | CC(=O)O | C2H4O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-methylphenoxy}ethyl)cyclohexylcyclopropylmethylamine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC(=C(OCCN(CC2CC2)C2CCCCC2)C=C1)C | C32H35ClN2O
